US07323475B2
a) 4-Hydroxy-1-(naphthalen-2-yloxy)-isoquinoline-3-carboxylic acid butyl ester
Synthesized from 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and Naphthalen-2-ol in analogy to Example D-20 d); MS-(+)-ion: M+1=388.1.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | Naphthalen-2-ol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
product | 4-Hydroxy-1-(naphthalen-2-yloxy)-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)OC1=CC2=CC=CC=C2C=C1 | C24H21NO4
